US07214824B2
2-(4-tert-Butyl-3-fluorophenoxy)-N-{3-methyl-4-[(methylsulfonyl)amino]benzyl}acetamide
(4-tert-Butyl-3-fluorophenoxy) acetic acid (339 mg, 1.5 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (EDC) (518 mg, 2.7 mmol), 4-(dimethylamino)pyridine (DMAP) (55 mg, 0.45 mmol), triethylamine (0.836 ml) and N-[4-(aminomethyl)-2-methylphenyl]methanesulfonamide hydrochloride (451 mg, 1.8 mmol) were mixed in the same procedure described in Example 2(b) to give 105 mg (17% yield) of the title compound as a white solid.

reactant | (4-tert-Butyl-3-fluorophenoxy) acetic acid | 1.5 mmol, 339 mg | C(C)(C)(C)C1=C(C=C(OCC(=O)O)C=C1)F | C12H15FO3
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 2.7 mmol, 518 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-[4-(aminomethyl)-2-methylphenyl]methanesulfonamide hydrochloride | 1.8 mmol, 451 mg | Cl.NCC1=CC(=C(C=C1)NS(=O)(=O)C)C
catalyst | 4-(dimethylamino)pyridine | 0.45 mmol, 55 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | 0.836 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-tert-Butyl-3-fluorophenoxy)-N-{3-methyl-4-[(methylsulfonyl)amino]benzyl}acetamide | 105 mg, 17% yield | C(C)(C)(C)C1=C(C=C(OCC(=O)NCC2=CC(=C(C=C2)NS(=O)(=O)C)C)C=C1)F | C21H27FN2O4S
